US07164016B2
a) 4-(Ethoxycarbonylmethoxy)-phenylacetic acid methyl ester
10 g (60.2 mmol) of hydroxyphenylacetic acid methyl ester (Aldrich) is dissolved in 75 ml of acetone. 18.4 g (133 mmol) of solid potassium carbonate is added. 17.8 ml (123 mmol) of bromoacetic acid ethyl ester is added in drops under reflux within 15 minutes, it is kept at this temperature for another 4 hours, and it is stirred overnight at room temperature. Precipitate is filtered out, the solution is evaporated to the dry state and chromatographed on silica gel (hexane/ethyl acetate 3:1). The fractions that contain the product are combined and concentrated by evaporation.

reactant | hydroxyphenylacetic acid methyl ester | 60.2 mmol, 10 g | COC(C(C1=CC=CC=C1)O)=O | C9H10O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetic acid ethyl ester | 123 mmol, 17.8 ml | C(C)OC(CBr)=O | C4H7BrO2
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | 4-(Ethoxycarbonylmethoxy)-phenylacetic acid methyl ester | COC(CC1=CC=C(C=C1)OCC(=O)OCC)=O | C13H16O5
